### PR TITLE
Polynorm proofs

### PR DESCRIPTION
**Pull request by mhk119**

### CODE REVIEW

File: Smt/Reconstruct/Int/Polynorm.lean [hunk 1]
```diff
@@ -111,20 +166,93 @@ def mul (p q : Polynomial) : Polynomial :=
...
+      case inl h1 =>
+        split
+        case inl h2 =>
+          rw [←Int.add_assoc, Int.add_comm, ←Monomial.denote_add h1]
+          simp [Monomial.denote, h2]
+        case inr h2 =>
+          simp [-Int.add_zero, Int.add_comm 0, Monomial.foldl_assoc Int.add_assoc, Monomial.denote_add h1, Int.add_assoc]
+      case inr h1 =>
+        simp only [List.foldl_cons, Int.add_comm 0, ih, Monomial.foldl_assoc Int.add_assoc]
+        rw [←Int.add_assoc, Int.add_comm (Monomial.denote ctx n), Int.add_assoc]
```
Comment (abdoo8080) [inline Smt/Reconstruct/Int/Polynorm.lean:189]: Proof structure is fine. Numeric names (`h1` and `h2`) are generally not acceptable. `split` can be combined with `rename_i` to avoid using the `case` tactic (you can keep using `case` tactic if you think it's more appropriate here).
```suggestion
  induction p with
  | nil => simp [add.insert]
  | cons n p ih =>
    simp only [add.insert]
    split <;> rename_i hlt <;> simp only [List.foldl_cons, Int.add_comm 0, Monomial.foldl_assoc Int.add_assoc]
    · split <;> rename_i heq
      · split <;> rename_i hneq
        · rw [←Int.add_assoc, Int.add_comm, ←Monomial.denote_add heq]
          simp [Monomial.denote, hneq]
        · simp [-Int.add_zero, Int.add_comm 0, Monomial.foldl_assoc Int.add_assoc, Monomial.denote_add, heq, Int.add_assoc]
      · simp only [List.foldl_cons, Int.add_comm 0, ih, Monomial.foldl_assoc Int.add_assoc]
        rw [←Int.add_assoc, Int.add_comm (Monomial.denote ctx n), Int.add_assoc]
```

File: Smt/Reconstruct/Int/Polynorm.lean [hunk 2]
```diff
@@ -60,8 +61,62 @@ def denote (ctx : Context) (m : Monomial) : Int :=
...
+  List.foldl (fun z a => z * (ctx a)) 1 (mul.insert y ys) =
+  (ctx y) * List.foldl (fun z a => z * (ctx a)) 1 ys := by
+  induction ys with
+  | nil => simp [mul.insert]
+  | cons x ys ih =>
+    by_cases h : y ≤ x
+    · simp [mul.insert, h, foldl_assoc Int.mul_assoc (ctx y) (ctx x), Int.mul_assoc]
+    · simp only [mul.insert, h, List.foldl_cons, ite_false, Int.mul_comm,
+                 foldl_assoc Int.mul_assoc, ih]
+      rw [← Int.mul_assoc, Int.mul_comm (ctx x) (ctx y), Int.mul_assoc]
```
Comment (abdoo8080) [inline Smt/Reconstruct/Int/Polynorm.lean:107]: I don't have a strong opinion (yet!) on whether or not a single whitespace should follow `←` inside `simp`. However, be consistent: either always add the whitespace or don't.

File: Smt/Reconstruct/Int/Polynorm.lean [hunk 3]
```diff
@@ -111,20 +166,93 @@ def mul (p q : Polynomial) : Polynomial :=
...
+  revert n
+  induction p with
+  | nil => simp [denote]
+  | cons k p ih =>
+    intro n
+    simp only [List.foldl_cons, List.foldr, @ih n]
+    rw [ih, @ih ((g k).add []), ← Int.add_assoc, denote_nil_add, denote_add, Int.add_comm _ (denote ctx n)]
+
+
+
```
Comment (abdoo8080) [inline Smt/Reconstruct/Int/Polynorm.lean:238]: Unnecessary whitespace
```suggestion
```

File: Smt/Reconstruct/Int/Polynorm.lean [hunk 4]
```diff
@@ -111,20 +166,93 @@ def mul (p q : Polynomial) : Polynomial :=
...
+    rw [Int.add_comm 0, Monomial.foldl_assoc Int.add_assoc, ←ih, denote_add_insert, denote_nil_add]
+
+theorem denote_mul {p q : Polynomial} : (p.mul q).denote ctx = p.denote ctx * q.denote ctx := by
+  simp only [mul]
+  induction p with
+  | nil => simp [denote]
+  | cons n p ih =>
+    simp only [List.foldl_cons, denote_cons, Int.add_mul, ← ih]
+    rw [denote_foldl]
+    rw [denote_add_insert, ←denote_mulMonomial, denote_nil_add, denote_foldl]
```
Comment (abdoo8080) [inline Smt/Reconstruct/Int/Polynorm.lean:255]: Whenever possible, combine consecutive uses of `rw` and `simp`
```suggestion
    rw [denote_foldl, denote_add_insert, ←denote_mulMonomial, denote_nil_add, denote_foldl]
```

**Review by abdoo8080 — CHANGES_REQUESTED** [review]

**Review by abdoo8080 — APPROVED** [review]
